US07087601B2
Utilizing the general procedure outlined in the synthesis of 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]propanenitrile, 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile (300 mg, 1.1 mmol) was reacted with iodoethane (90 μL, 1.1 mmol) to afford the desired 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]butanenitrile as a yellow solid: 1H NMR (CDCl3, 300 MHz) δ 7.87–7.84 (d, 1H), 7.79–7.74 (m, 2H), 7.59–7.53 (m, 2H), 7.37–7.34 (m, 2H), 4.22–4.17 (t, 1H), 3.97 (s, 3H), 1.95–1.89 (m, 2H), 1.13–1.08 (t, 3H). MS (ESI) 293 (M+H)+.

reactant | 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]propanenitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C(C#N)C)OC | C17H14N2O2
reactant | 4-(1,3-benzoxazol-2-yl)-2-methoxybenzonitrile | 1.1 mmol, 300 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C#N)C=C2)OC | C15H10N2O2
reactant | iodoethane | 1.1 mmol, 90 μL | ICC | C2H5I
product | 2-[4-(1,3-benzoxazol-2-yl)-2-methoxyphenyl]butanenitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C(C#N)CC)OC | C18H16N2O2
